### PR TITLE
[Merged by Bors] - feat(GroupTheory/Commutator/Basic): prove `⁅H ⊔ K, N⁆ = ⁅H, N⁆ ⊔ ⁅K, N⁆` for `N` normal

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves distributivity `⁅H ⊔ K, N⁆ = ⁅H, N⁆ ⊔ ⁅K, N⁆` for `N` normal.

The idea is to compute `⁅H ⊔ K, N⁆` in the quotient `(H ⊔ K ⊔ N) ⧸ (⁅H, N⁆ ⊔ ⁅K, N⁆)`.

I also moved `normalizer_inf_normalizer_le_normalizer_sup` to an earlier file and renamed it to match `inf_normalizer_le_normalizer_inf`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 1]
```diff
@@ -10,6 +10,7 @@ public import Mathlib.Algebra.Group.Pointwise.Set.Lattice
 public import Mathlib.Algebra.Group.Subgroup.MulOppositeLemmas
 public import Mathlib.Algebra.Group.Subgroup.ZPowers.Basic
 public import Mathlib.Algebra.Group.Submonoid.Pointwise
+public import Mathlib.GroupTheory.Commutator.Basic
```
Comment (kim-em) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean]:
```suggestion
```

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 2]
```diff
@@ -311,6 +323,40 @@ theorem commutator_le_map_commutator {f : G →* G'} {K₁ K₂ : Subgroup G'} (
...
+  refine le_antisymm ?_
+    (sup_le (commutator_mono_left le_sup_left) (commutator_mono_left le_sup_right))
+  have hH : ⁅H, N⁆ ≤ ⁅H, N⁆ ⊔ ⁅K, N⁆ := le_sup_left
+  have hK : ⁅K, N⁆ ≤ ⁅H, N⁆ ⊔ ⁅K, N⁆ := le_sup_right
+  rw [← QuotientGroup.ker_mk' (⁅H, N⁆ ⊔ ⁅K, N⁆), ← Subgroup.map_eq_bot_iff,
+    map_commutator, Subgroup.commutator_eq_bot_iff_le_centralizer] at hH hK ⊢
+  rw [map_sup]
+  exact sup_le hH hK
+
+theorem commutator_sup_left (H K N : Subgroup G) [N.Normal] : ⁅H ⊔ K, N⁆ = ⁅H, N⁆ ⊔ ⁅K, N⁆ := by
```
Comment (kim-em) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: :robot: says: `left`/`right` look swapped: `inf_sup_left : a ⊓ (b ⊔ c)`, `Submodule.mul_sup : M * (N ⊔ P)`, `sup_le_sup_left (h) (c) : c ⊔ a ≤ c ⊔ b` all put the sup in the *second* argument for `_left`. So `⁅H ⊔ K, N⁆` would be `commutator_sup_right`, and `⁅N, H ⊔ K⁆` at line 357 `commutator_sup_left`.

Comment (kim-em) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: Missing `@[to_additive]` here, on line 357, and on the private lemma

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 3]
```diff
@@ -311,6 +323,40 @@ theorem commutator_le_map_commutator {f : G →* G'} {K₁ K₂ : Subgroup G'} (
 
 variable (H₁ H₂)
 
+private theorem commutator_sup_left' (H K N : Subgroup G) [(⁅H, N⁆ ⊔ ⁅K, N⁆).Normal] :
```
Comment (kim-em) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: `commutator_sup_left_of_normal` (or `_right_` after the swap) rather than a prime.

**Comment by kim-em** [comment]
bors d+
